US08242130B2
Dimethylamine (1M solution in THF, 1.2 mL) was added to 6-bromomethyl-2-(4-hydroxyphenyl)chromen-4-one (206 mg, 0.62 mmol) dissolved in dry THF (10 mL). The reaction mixture was stirred at rt for 17 hr. Most of the solvent was then removed in vacuo and the yellowish residue was suspended in 20 mL of water. The resulting suspension was stirred at rt for 30 min and the solid was removed by filtration, washed with water, ether, and air-dried to afford 6-((dimethylamino)methyl)-2-(4-hydroxyphenyl)-4H-chromen-4-one (125 mg, 68%). MS (ES) m/z: 296.98 (M+1), 295.97 (M); Mp. 99-102° C.

reactant | Dimethylamine | 1M, 1.2 mL | CNC | C2H7N
reactant | 6-bromomethyl-2-(4-hydroxyphenyl)chromen-4-one | 0.62 mmol, 206 mg | BrCC=1C=C2C(C=C(OC2=CC1)C1=CC=C(C=C1)O)=O | C16H11BrO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-((dimethylamino)methyl)-2-(4-hydroxyphenyl)-4H-chromen-4-one | 125 mg, 68% | CN(C)CC=1C=C2C(C=C(OC2=CC1)C1=CC=C(C=C1)O)=O | C18H17NO3
